US08110573B2
To a solution of 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea free base in MeOH-EtOAc was added 1 equivalent of ethanesulfonic acid. The mixture was stirred at ambient temperature and then reduced in vacuo. The residue was taken up in MeOH and to the solution was added Et2O. Mixture left to stand for 72 h and the solid formed collected by filtration and dried to give 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea ethanesulfonate salt.

reactant | 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea | C1(CC1)NC(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | C19H23N7O2
reactant | ethanesulfonic acid | 1 equivalent | C(C)S(=O)(=O)O | C2H6O3S
reactant | Et2O | CCOCC | C4H10O
solvent | MeOH EtOAc | CO.CCOC(=O)C
solvent | MeOH | CO | CH4O
product | 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea ethanesulfonate salt | C(C)S(=O)(=O)O.C1(CC1)NC(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | InChI=1S/C19H23N7O2.C2H6O3S/c27-19(21-13-2-3-13)24-16-10-20-25-17(16)18-22-14-4-1-12(9-15(14)23-18)11-26-5-7-28-8-6-26;1-2-6(3,4)5/h1,4,9-10,13H,2-3,5-8,11H2,(H,20,25)(H,22,23)(H2,21,24,27);2H2,1H3,(H,3,4,5)
